US04833212
(Synthesis of DBU/MgCl2 complex)
152.2 g (1.0 mole) of DBU and 47.6 g (0.5 moles) of anhydrous MgCl2 were refluxed in 300 g of methanol with heating for 8 hours, and then cooled. The deposited crystals were recovered therefrom by filtration, washed with acetone and dried, whereby 145.2 g of DBU/MgCl2 complex compound was obtained (yield: 72.7%).

reactant | DBU | 1.0 mole, 152.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | MgCl2 | 0.5 moles, 47.6 g | [Mg+2].[Cl-].[Cl-]
solvent | methanol | 300 g | CO | CH4O
product | DBU MgCl2 | yield: 72.7% | C1CCC2=NCCCN2CC1.[Mg+2].[Cl-].[Cl-] | InChI=1S/C9H16N2.2ClH.Mg/c1-2-5-9-10-6-4-8-11(9)7-3-1;;;/h1-8H2;2*1H;/q;;;+2/p-2
